US08895035B2
(B-2) Pyrimidinyloxy benzoate:
bispyribac-sodium, pyribenzoxim, pyriftalid, pyriminobac-methyl, pyrithiobac-sodium, pyrimisulfan;

reactant | bispyribac-sodium | COC1=CC(=NC(=N1)OC2=C(C(=CC=C2)OC3=NC(=CC(=N3)OC)OC)C(=O)[O-])OC.[Na+]
reactant | pyribenzoxim | COC1=CC(=NC(=N1)OC2=C(C(=CC=C2)OC3=NC(=CC(=N3)OC)OC)C(=O)ON=C(C4=CC=CC=C4)C5=CC=CC=C5)OC | C32H27N5O8
reactant | pyriftalid | CC1C2=C(C(=CC=C2)SC3=NC(=CC(=N3)OC)OC)C(=O)O1 | C15H14N2O4S
reactant | pyriminobac-methyl | C/C(=N/OC)/C=1C=CC=C(C1C(=O)OC)OC=2N=C(C=C(N2)OC)OC | C17H19N3O6
reactant | pyrithiobac-sodium | COC1=CC(=NC(=N1)SC2=C(C(=CC=C2)Cl)C(=O)[O-])OC.[Na+]
reactant | pyrimisulfan | COCC1=C(C(=CC=C1)C(C2=NC(=CC(=N2)OC)OC)O)NS(=O)(=O)C(F)F | C16H19F2N3O6S
product | Pyrimidinyloxy benzoate | C(C1=CC=CC=C1)(=O)OOC1=NC=CC=N1 | C11H8N2O3
